US08110681B2
A mixture of 2-((2-bromo-4-(1-tert-butoxy-1-oxopropan-2-yl)phenylamino)methyl)benzoic acid (4.40 g, 10.1 mmol), 1-(3-(dimethylamino)propyl)-3-ethylcarbodiimide hydrochloride (2.13 g, 11.1 mmol) and 4-dimethylaminopyridine (0.617 g, 5.05 mmol) in methylene chloride (80 mL) was stirred at 0° C. and was allowed to warm to room temperature overnight. The mixture was then concentrated and the residue was purified by flash chromatography (silica, 4:1 hexanes/ethyl acetate) to afford tert-butyl 2-(3-bromo-4-(1-oxoisoindolin-2-yl)phenyl)propanoate (3.55 g, 85%) as white foam: 1H NMR (500 MHz, CDCl3) δ 7.96 (d, J=7.6 Hz, 1H), 7.64-7.50 (m, 4H), 7.35 (d, J=1.0 Hz, 2H), 4.79 (s, 2H), 3.63 (q, J=7.2 Hz, 1H), 1.47 (d, J=7.2 Hz, 3H), 1.44 (s, 9H); ESI MS m/z 418 [(M+2)+H]+.

reactant | 2-((2-bromo-4-(1-tert-butoxy-1-oxopropan-2-yl)phenylamino)methyl)benzoic acid | 10.1 mmol, 4.40 g | BrC1=C(C=CC(=C1)C(C(=O)OC(C)(C)C)C)NCC1=C(C(=O)O)C=CC=C1 | C21H24BrNO4
reactant | 1-(3-(dimethylamino)propyl)-3-ethylcarbodiimide hydrochloride | 11.1 mmol, 2.13 g | Cl.CN(CCCN=C=NCC)C
catalyst | 4-dimethylaminopyridine | 5.05 mmol, 0.617 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 80 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 2-(3-bromo-4-(1-oxoisoindolin-2-yl)phenyl)propanoate | 3.55 g, 85% | BrC=1C=C(C=CC1N1C(C2=CC=CC=C2C1)=O)C(C(=O)OC(C)(C)C)C | C21H22BrNO3
